US09301951B2
Intermediate 69b: 2-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)-pyridin-4-amine
Into a 30-mL round bottom flask, was placed a solution of 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine (500 mg, 1.66 mmol, 1.00 equiv) in N,N-dimethylformamide (10 mL), (3-(trifluoromethyl)benzylamine (581 mg, 3.32 mmol, 2.00 equiv), and potassium carbonate (985 mg, 7.14 mmol, 4.00 equiv). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was diluted with 30 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×20 mL of brine and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/hexane (1:1). The product was obtained as 500 mg (66%) of a yellow oil.

reactant | 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine | 1.66 mmol, 500 mg, 1.00 equiv | FC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C16H16FN3O2
reactant | 3-(trifluoromethyl)benzylamine | 3.32 mmol, 581 mg, 2.00 equiv | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | potassium carbonate | 7.14 mmol, 985 mg, 4.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-(2-nitro-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)-pyridin-4-amine | 500 mg, 66% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)NCC1=CC(=CC=C1)C(F)(F)F | C24H23F3N4O2
